US07553840B2
To 2-pyrazol-1-yl-benzaldehyde (0.344 g, 2 mmol) in THF (8 ml) was added trifluoromethyl trimethyl silane (0.341 g, 2.4 mmol). The mixture was cooled to 0-5° C. (ice water bath) and tetra-n-butyl ammonium fluoride (0.035 ml, 0.035 mmol, 1M in THF) was added. The ice bath was removed, and the mixture was stirred at room temperature for 6 h. 2N HCl (5 ml) was added and the reaction mixture was further stirred at room temperature for 3 h. Solvent was removed on the rotavap under reduced pressure. The residue was dissolved in DCM (30 ml), washed with water (20 ml), brine (20 ml) and dried over sodium sulfate. The solvent was removed in vacuo to give crude 2,2,2-trifluoro-1-(2-pyrazol-1-yl-phenyl)-ethanol (0.45 g, 93%) which was directly used in the following experiment.

reactant | 2-pyrazol-1-yl-benzaldehyde | 2 mmol, 0.344 g | N1(N=CC=C1)C1=C(C=O)C=CC=C1 | C10H8N2O
reactant | trifluoromethyl trimethyl silane | 2.4 mmol, 0.341 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butyl ammonium fluoride | 0.035 mmol, 1M, 0.035 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,2,2-trifluoro-1-(2-pyrazol-1-yl-phenyl)-ethanol | 0.45 g, 93% | FC(C(O)C1=C(C=CC=C1)N1N=CC=C1)(F)F | C11H9F3N2O
